US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(2-methylthioethoxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester
The title compound (2.77 g, 85%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [6-N-(2-methylthioethoxycarbonyl)-adenin-9-yl]-acetic acid (1.56 g, 5 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 10.59 (s, 1H), 8.97 (brs, 0.6H), 8.76 (brs, 0.4H), 8.57 (s, 0.4H), 8.52 (s, 0.6H), 8.28 (d, 1H), 8.17 (d, 1H), 7.65 (m, 2H), 5.35 (s, 1.2H), 5.14 (s, 0.8H), 4.46 (s, 0.8H), 4.17 (q, 0.8H), 4.06 (s, 1.2H), 4.02 (q, 1.2H), 3.70 (t, 1.2H), 3.47 (t, 1.2H), 3.42 (t, 0.8H), 3.21 (t, 0.8H), 2.12 (s, 3H), 1.23 (t, 1.2H), 1.12 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [6-N-(2-methylthioethoxycarbonyl)-adenin-9-yl]-acetic acid | 5 mmol, 1.56 g | CSCCOC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C11H13N5O4S
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(2-methylthioethoxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester | 2.77 g, 85% | C(C)OC(CN(C(CN1C2=NC=NC(=C2N=C1)NC(=O)OCCSC)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C24H28N8O7S3
